US06265411B1
A solution of 5-cyanooxindole (213 mg, 1.35 mmol), (Tet. Lett., 1987, 28, 4027), in DMF (3 ml) was added dropwise to a suspension of sodium hydride (54 mg, 1.35 mmol, prewashed with hexane) in DMF (2 ml). The mixture was stirred for 20 minutes at ambient temperature, 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (152 mg, 0.45 mmol), (prepared as described for the starting material in Example 5), was added and the mixture was heated at 70° C. for 1 hour. The mixture was allowed to cool and then was diluted with water and adjusted to pH1 with 2M hydrochloric acid. The solution was washed with ether and then basified with aqueous sodium hydrogen carbonate solution. The resulting precipitate was collected by filtration, washed with water, ether and dried under vacuum. The solid was purified by flash chromatography eluting with methylene chloride/methanol (90/10 followed by 80/20). The purified solid was dissolved in methylene chloride/methanol and 5M methanolic hydrogen chloride (0.5 ml) was added. The solution was concentrated by evaporation to a total volume of 2 ml and ether (15 ml) was added. The resulting solid was collected by filtration, washed with ether and dried under vacuum to give 4-(5-cyanooxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline hydrochloride (120 mg, 50%).

reactant | 5-cyanooxindole | 1.35 mmol, 213 mg | C(#N)C=1C=C2CC(NC2=CC1)=O | C9H6N2O
reactant | sodium hydride | 1.35 mmol, 54 mg | [H-].[Na+]
reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.45 mmol, 152 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(5-cyanooxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline hydrochloride | 120 mg, 50% | Cl.C(#N)C=1C=C2C(C(NC2=CC1)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | InChI=1S/C25H25N5O4.ClH/c1-32-21-12-18-20(13-22(21)34-8-2-5-30-6-9-33-10-7-30)27-15-28-24(18)23-17-11-16(14-26)3-4-19(17)29-25(23)31;/h3-4,11-13,15,23H,2,5-10H2,1H3,(H,29,31);1H
